US06613913B2
{7-{[(Benzyloxy)carbonyl]amino}-[-1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-Methylbenzenesulfonate
To a solution of {(2R)-7-amino-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate (4.20 g, 11.2 mmole) in ethyl acetate (150 mL) was added benzyl chloroformate (8.00 mL, 56.0 mmole). The reaction mixture was stirred under nitrogen for 0.5 hour, then a solution of N,N-diisopropylethylamine (9.75 mL, 56 mmole) in ethyl acetate (75 mL) was added dropwise over a period of 0.5 hour. The mixture was stirred at room temperature under nitrogen overnight. The reaction was diluted in volume to 350 ml and was then washed with 2N HCl (2×100 mL), saturated sodium bicarbonate (150 mL) and brine (100 mL), dried over magnesium sulfate, filtered and evaporated to an oil. The crude oil was column chromatographed on silica gel with 10% ethyl acetate/hexane to remove impurities and the product eluted with 60% ethyl acetate/hexane to give the (R)-enantiomer of the title compound as a yellow oil (4.5 g, 79%). 1H (CDCl3) doublet 7.8 δ (2); multiplet 7.4 δ (7H); doublet 6.7 δ (2H); multiplet 6.0-6.2 δ (2H); singlet 5.2 δ (2H); multiplet 4.4 δ (1H); multiplet 4.2 δ (3H); multiplet 4.0 δ (1H); singlet 2.4 δ (3H); doublet 1.9 δ (3H).

reactant | {(2R)-7-amino-8-[1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 11.2 mmole, 4.20 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)C=CC | C19H21NO5S
reactant | benzyl chloroformate | 56.0 mmole, 8.00 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N,N-diisopropylethylamine | 56 mmole, 9.75 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | {7-{[(Benzyloxy)carbonyl]amino}-[-1-propenyl]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-Methylbenzenesulfonate | 4.5 g, 79% | CC1=CC=C(C=C1)S(=O)(=O)OCC1(COC2=C(O1)C=C(C=C2)NC(=O)OCC2=CC=CC=C2)C=CC | C27H27NO7S
